US08258140B2
10% Palladium on carbon (0.276 g, 0.26 mmol) was added to 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine (13.80 g, 25.96 mmol) and ammonium formate (16.37 g, 259.61 mmol) in ethanol (300 mL) at 20° C. The resulting slurry was stirred at 76° C. for 32 hours, regularly adding more ammonium formate and catalyst to force the reaction to completion. The cooled reaction mixture was filtered through diatomaceous earth and the filtrate was concentrated under vacuum to give a colourless gum which was dissolved in DCM (1 L) and the solution washed with water (1 L). The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated to dryness. The crude product was purified by flash silica chromatography, elution gradient 0 to 8% MeOH in DCM. Pure fractions were evaporated to dryness and the resulting oil was triturated with ether to give 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine (9.90 g, 71.4%) as a white solid.

reactant | 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazine | 25.96 mmol, 13.80 g | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C26H32F3N7O2
reactant | ammonium formate | 259.61 mmol, 16.37 g | C(=O)[O-].[NH4+]
catalyst | Palladium on carbon | 0.26 mmol, 0.276 g | [Pd] | Pd
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine | 9.90 g, 71.4% | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C26H34F3N7O2
